US06432993B1
t-Butyl N-methyl-N-[2-nitro-5-(3-phenylphenoxy)phenyl]carbamate
In a similar manner to that described in Reference Example 6, a reaction was carried out using 3-phenylphenol (4.0 g), t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (6.5 g), sodium hydride (55 wt. %, 1.13 g) and anhydrous N,N-dimethylformamide (35 ml) and the reaction mixture was purified to give the title compound (8.7 g).

reactant | 3-phenylphenol | 4.0 g | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 6.5 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 1.13 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-methyl-N-[2-nitro-5-(3-phenylphenoxy)phenyl]carbamate | 8.7 g | CN(C(OC(C)(C)C)=O)C1=C(C=CC(=C1)OC1=CC(=CC=C1)C1=CC=CC=C1)[N+](=O)[O-] | C24H24N2O5
